US07211587B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}-N′-(4-methyl-1,3-thiazol-2-yl)urea hydrochloride
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline (10 g) was dissolved in chloroform (300 ml) and triethylamine (40 ml) to prepare a solution. A solution of triphosgene (10 g) in chloroform was then added to the solution, and the mixture was stirred at room temperature for 30 min. Next, 2-amino-4-methylthiazole (4.36 g) was added thereto, and the mixture was further stirred at room temperature overnight. Iced water was added to the reaction solution, and the mixture was extracted with chloroform. The organic layer was washed with water and saturated brine and was then dried over anhydrous magnesium sulfate. The dried organic layer was filtered and was then concentrated, and ether was added to the residue for crystallization, followed by collection of the resultant crystal by filtration. The crystal was purified by chromatography (chloroform:acetone=2:1). A 10% solution of hydrogen chloride in methanol was added to the purification product, followed by concentration. The resultant crystal was washed with ether to give 6.0 g of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline | 10 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)F | C17H15FN2O3
reactant | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 10 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-amino-4-methylthiazole | 4.36 g | NC=1SC=C(N1)C | C4H6N2S
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}-N′-(4-methyl-1,3-thiazol-2-yl)urea hydrochloride | 6.0 g | Cl.COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC=1SC=C(N1)C)F | InChI=1S/C22H19FN4O4S.ClH/c1-12-11-32-22(25-12)27-21(28)26-16-5-4-13(8-15(16)23)31-18-6-7-24-17-10-20(30-3)19(29-2)9-14(17)18;/h4-11H,1-3H3,(H2,25,26,27,28);1H
